US09334263B2
To a solution of 5-(cyclopropylethynyl)-2-(piperazin-1-yl)pyrimidine HCl salt (172 mg, 0.44 mmol) and (s)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate was added diisopropylethylamine (169 mg, 1.311 mmol), and the reaction mixture was stirred at room temperature. LCMS showed the reaction was completed. The mixture was concentrated, and the residue was purified by silica gel chromatography, eluting with petroleum ether:ethyl acetate=1:2, to afford (S)-tert-butyl 2-((4-(4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (240 mg, 94%) as a yellowish solid. MS (ES+): C29H37N11O3 requires: 587, found: 588 [M+H]+.

reactant | 5-(cyclopropylethynyl)-2-(piperazin-1-yl)pyrimidine HCl salt | 0.44 mmol, 172 mg | Cl.C1(CC1)C#CC=1C=NC(=NC1)N1CCNCC1
reactant | (s)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | ClC1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C16H22ClN7O3
reactant | diisopropylethylamine | 1.311 mmol, 169 mg | C(C)(C)N(CC)C(C)C | C8H19N
product | (S)-tert-butyl 2-((4-(4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 240 mg, 94% | C1(CC1)C#CC=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C29H37N11O3
